M1 gnd in out gnd N w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M2 out in gnd gnd N w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M3 gnd in out gnd N w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u  geo=2
M4 gnd in out gnd N w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u  geo=2
M5 out in vdd vdd P w=1u l=0.25u As=0.275p Ad=0.2p Ps=2.55u Pd=1.4u  geo=1
M6 vdd in out vdd P w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M7 out in vdd vdd P w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M8 vdd in out vdd P w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u  geo=2
