M1 cont2 gate0 cont1 cont0 N w=3u l=0.25u As=1.65p Ad=3.225p Ps=4.1u Pd=8.15u Nrs=0.141667 Nrd=0.216667 geo=2
M2 int2 gate1 cont3 cont0 N w=1.5u l=0.25u As=1.275p Ad=0.5625p Ps=4.7u Pd=2.25u Nrs=0.283333 Nrd=0.25 geo=1
M3 cont4 gate2 int2 cont0 N w=1.5u l=0.25u As=0.5625p Ad=1.6125p Ps=2.25u Pd=5.15u Nrs=0.25 Nrd=0.433333 geo=2
M4 cont5 gate3 cont1 cont0 N w=3u l=0.25u As=1.65p Ad=1.65p Ps=4.1u Pd=4.1u Nrs=0.141667 Nrd=0.141667 geo=3
M5 cont6 gate4 cont5 cont0 N w=3u l=0.25u As=1.65p Ad=2.22p Ps=4.1u Pd=7.7u Nrs=0.141667 Nrd=0.141667 geo=2
M6 cont9 gate5 cont8 cont7 P w=3u l=0.25u As=2.25p Ad=1.95p Ps=7.5u Pd=4.73333u Nrs=0.108333 Nrd=0.141667 geo=1
M7 cont11 gate6 cont10 cont7 P w=1.5u l=0.25u As=0.65p Ad=1.125p Ps=2.5u Pd=4.5u Nrs=0.216667 Nrd=0.216667 geo=2
M8 cont12 gate7 int3 cont7 P w=6u l=0.25u As=1.05p Ad=3.72222p Ps=6.35u Pd=10.3704u Nrs=0.0291667 Nrd=0.0541667 geo=3
M9 cont9 gate8 int3 cont7 P w=6u l=0.25u As=1.05p Ad=3.9p Ps=6.35u Pd=9.46667u Nrs=0.0291667 Nrd=0.0708333 geo=3
M10 cont12 gate9 cont10 cont7 P w=2.1u l=0.25u As=0.91p Ad=1.30278p Ps=3.5u Pd=3.62963u Nrs=0.154762 Nrd=0.202381 geo=3
R1   aux1   aux2   4.0455343
R2   aux1   gate6  11.435026
R3   aux1   A      0.20014143
R4   aux2   gate1  0.0010589518
R5   aux2   gate4  19.115997
R6   gate7  gate4  7.0854235
R7   aux4   gate9  12.332758
R8   aux4   gate2  3.9858185
R9   aux4   B      0.26118472
R10  gate8  gate9  18.499254
R11  gate8  gate3  7.3809168
R12  aux7   aux8   0.28997355
R13  aux7   cont4  0.08288277
R14  aux7   cont10 0.18454257
R15  aux8   gate0  1.5090262
R16  aux8   gate5  9.2789277
R17  cont7  vdd    0.060505789
R18  cont11 vdd    0.052118604
R19  cont12 vdd    0.0089749252
R20  vdd    cont8  0.02223271
R21  gnd    cont3  0.052998575
R22  gnd    cont0  0.061752624
R23  cont5  gnd    0.031400632
R24  aux12  Y      0.079431299
R25  aux12  cont2  0.11332514
R26  aux12  cont9  0.10073005
R27  cont1  cont6  0.22513555
C1   cont1  cont2  1.2724492e-17
C2   cont1  gate0  3.4769424e-17
C3   cont1  cont0  4.4778444e-17
C4   cont1  Y      1.2724492e-17
C5   cont1  gnd    1.3433533e-16
C6   cont1  cont3  4.4778444e-17
C7   cont1  gate1  1.1006341e-17
C8   cont1  A      1.1006341e-17
C9   cont1  cont4  3.4769424e-17
C10  cont1  gate2  1.236549e-17
C11  cont1  B      1.236549e-17
C12  cont1  cont5  4.4778444e-17
C13  cont1  gate3  1.236549e-17
C14  cont1  gate4  2.2012681e-17
C15  cont1  cont8  9.9055615e-19
C16  cont1  cont9  1.2724492e-17
C17  cont1  gate5  3.4769424e-17
C18  cont1  cont7  9.9055615e-19
C19  cont1  vdd    3.9622246e-18
C20  cont1  cont10 3.4769424e-17
C21  cont1  cont11 9.9055615e-19
C22  cont1  gate6  1.1006341e-17
C23  cont1  cont12 9.9055615e-19
C24  cont1  gate7  1.1006341e-17
C25  cont1  gate8  2.4730979e-17
C26  cont1  gate9  2.4730979e-17
C27  cont1  aux1   3.3019022e-17
C28  cont1  aux2   3.3019022e-17
C29  cont1  aux4   3.7096469e-17
C30  cont1  aux7   1.0430827e-16
C31  cont1  aux8   1.0430827e-16
C32  cont1  aux12  3.8173475e-17
C33  cont2  gate0  1.6647113e-17
C34  cont2  cont0  7.2076826e-18
C35  cont2  gnd    2.1623048e-17
C36  cont2  cont3  7.2076826e-18
C37  cont2  gate1  1.0926813e-18
C38  cont2  A      1.0926813e-18
C39  cont2  cont4  1.6647113e-17
C40  cont2  gate2  7.714544e-18
C41  cont2  B      7.714544e-18
C42  cont2  cont5  7.2076826e-18
C43  cont2  gate3  7.714544e-18
C44  cont6  cont2  1.2724492e-17
C45  cont2  gate4  2.1853626e-18
C46  cont2  cont8  1.4150506e-17
C47  cont2  gate5  1.6647113e-17
C48  cont2  cont7  1.4150506e-17
C49  cont2  vdd    5.6602024e-17
C50  cont2  cont10 1.6647113e-17
C51  cont2  cont11 1.4150506e-17
C52  cont2  gate6  1.0926813e-18
C53  cont2  cont12 1.4150506e-17
C54  cont2  gate7  1.0926813e-18
C55  cont2  gate8  1.5429088e-17
C56  cont2  gate9  1.5429088e-17
C57  cont2  aux1   3.278044e-18
C58  cont2  aux2   3.278044e-18
C59  cont2  aux4   2.3143632e-17
C60  cont2  aux7   4.9941338e-17
C61  cont2  aux8   4.9941338e-17
C62  gate0  cont0  3.0275025e-18
C63  Y      gate0  1.6647113e-17
C64  gate0  gnd    9.0825076e-18
C65  gate0  cont3  3.0275025e-18
C66  gate0  gate1  2.9930184e-18
C67  gate0  A      2.9930184e-18
C68  gate0  gate2  6.4316037e-18
C69  gate0  B      6.4316037e-18
C70  gate0  cont5  3.0275025e-18
C71  gate0  gate3  6.4316037e-18
C72  cont6  gate0  3.4769424e-17
C73  gate0  gate4  5.9860367e-18
C74  gate0  cont8  1.0810895e-17
C75  cont9  gate0  1.6647113e-17
C76  gate0  cont7  1.0810895e-17
C77  gate0  vdd    4.3243582e-17
C78  gate0  cont11 1.0810895e-17
C79  gate0  gate6  2.9930184e-18
C80  gate0  cont12 1.0810895e-17
C81  gate0  gate7  2.9930184e-18
C82  gate0  gate8  1.2863207e-17
C83  gate0  gate9  1.2863207e-17
C84  gate0  aux1   8.9790551e-18
C85  gate0  aux2   8.9790551e-18
C86  gate0  aux4   1.9294811e-17
C87  aux12  gate0  4.9941338e-17
C88  Y      cont0  7.2076826e-18
C89  cont0  gate1  1.3428981e-17
C90  cont0  A      1.3428981e-17
C91  cont4  cont0  3.0275025e-18
C92  cont0  gate2  5.0628847e-18
C93  cont0  B      5.0628847e-18
C94  cont0  gate3  5.0628847e-18
C95  cont6  cont0  4.4778444e-17
C96  cont0  gate4  2.6857962e-17
C97  cont0  cont8  8.2227216e-19
C98  cont9  cont0  7.2076826e-18
C99  gate5  cont0  3.0275025e-18
C100 cont0  cont7  8.2227216e-19
C101 cont0  vdd    3.2890887e-18
C102 cont10 cont0  3.0275025e-18
C103 cont0  cont11 8.2227216e-19
C104 cont0  gate6  1.3428981e-17
C105 cont0  cont12 8.2227216e-19
C106 cont0  gate7  1.3428981e-17
C107 cont0  gate8  1.0125769e-17
C108 cont0  gate9  1.0125769e-17
C109 cont0  aux1   4.0286942e-17
C110 cont0  aux2   4.0286942e-17
C111 cont0  aux4   1.5188654e-17
C112 aux7   cont0  9.0825076e-18
C113 aux8   cont0  9.0825076e-18
C114 aux12  cont0  2.1623048e-17
C115 Y      gnd    2.1623048e-17
C116 Y      cont3  7.2076826e-18
C117 Y      gate1  1.0926813e-18
C118 Y      A      1.0926813e-18
C119 Y      cont4  1.6647113e-17
C120 Y      gate2  7.714544e-18
C121 Y      B      7.714544e-18
C122 Y      cont5  7.2076826e-18
C123 Y      gate3  7.714544e-18
C124 cont6  Y      1.2724492e-17
C125 Y      gate4  2.1853626e-18
C126 Y      cont8  1.4150506e-17
C127 Y      gate5  1.6647113e-17
C128 Y      cont7  1.4150506e-17
C129 Y      vdd    5.6602024e-17
C130 Y      cont10 1.6647113e-17
C131 Y      cont11 1.4150506e-17
C132 Y      gate6  1.0926813e-18
C133 Y      cont12 1.4150506e-17
C134 Y      gate7  1.0926813e-18
C135 Y      gate8  1.5429088e-17
C136 Y      gate9  1.5429088e-17
C137 Y      aux1   3.278044e-18
C138 Y      aux2   3.278044e-18
C139 Y      aux4   2.3143632e-17
C140 Y      aux7   4.9941338e-17
C141 Y      aux8   4.9941338e-17
C142 gnd    gate1  4.0286942e-17
C143 gnd    A      4.0286942e-17
C144 cont4  gnd    9.0825076e-18
C145 gnd    gate2  1.5188654e-17
C146 gnd    B      1.5188654e-17
C147 gnd    gate3  1.5188654e-17
C148 cont6  gnd    1.3433533e-16
C149 gnd    gate4  8.0573885e-17
C150 gnd    cont8  2.4668165e-18
C151 cont9  gnd    2.1623048e-17
C152 gate5  gnd    9.0825076e-18
C153 gnd    cont7  2.4668165e-18
C154 gnd    vdd    9.867266e-18
C155 cont10 gnd    9.0825076e-18
C156 gnd    cont11 2.4668165e-18
C157 gnd    gate6  4.0286942e-17
C158 gnd    cont12 2.4668165e-18
C159 gnd    gate7  4.0286942e-17
C160 gnd    gate8  3.0377308e-17
C161 gnd    gate9  3.0377308e-17
C162 gnd    aux1   1.2086083e-16
C163 gnd    aux2   1.2086083e-16
C164 gnd    aux4   4.5565963e-17
C165 aux7   gnd    2.7247523e-17
C166 aux8   gnd    2.7247523e-17
C167 aux12  gnd    6.4869143e-17
C168 cont3  gate1  1.3428981e-17
C169 cont3  A      1.3428981e-17
C170 cont4  cont3  3.0275025e-18
C171 cont3  gate2  5.0628847e-18
C172 cont3  B      5.0628847e-18
C173 cont3  gate3  5.0628847e-18
C174 cont6  cont3  4.4778444e-17
C175 cont3  gate4  2.6857962e-17
C176 cont3  cont8  8.2227216e-19
C177 cont9  cont3  7.2076826e-18
C178 gate5  cont3  3.0275025e-18
C179 cont3  cont7  8.2227216e-19
C180 cont3  vdd    3.2890887e-18
C181 cont10 cont3  3.0275025e-18
C182 cont3  cont11 8.2227216e-19
C183 cont3  gate6  1.3428981e-17
C184 cont3  cont12 8.2227216e-19
C185 cont3  gate7  1.3428981e-17
C186 cont3  gate8  1.0125769e-17
C187 cont3  gate9  1.0125769e-17
C188 cont3  aux1   4.0286942e-17
C189 cont3  aux2   4.0286942e-17
C190 cont3  aux4   1.5188654e-17
C191 aux7   cont3  9.0825076e-18
C192 aux8   cont3  9.0825076e-18
C193 aux12  cont3  2.1623048e-17
C194 cont4  gate1  2.9930184e-18
C195 gate1  gate2  7.2654943e-18
C196 gate1  B      7.2654943e-18
C197 cont5  gate1  1.3428981e-17
C198 gate1  gate3  7.2654943e-18
C199 cont6  gate1  1.1006341e-17
C200 gate1  cont8  1.0290533e-17
C201 cont9  gate1  1.0926813e-18
C202 gate5  gate1  2.9930184e-18
C203 gate1  cont7  1.0290533e-17
C204 gate1  vdd    4.1162134e-17
C205 cont10 gate1  2.9930184e-18
C206 gate1  cont11 1.0290533e-17
C207 gate1  cont12 1.0290533e-17
C208 gate1  gate8  1.4530989e-17
C209 gate1  gate9  1.4530989e-17
C210 gate1  aux4   2.1796483e-17
C211 aux7   gate1  8.9790551e-18
C212 aux8   gate1  8.9790551e-18
C213 aux12  gate1  3.278044e-18
C214 cont4  A      2.9930184e-18
C215 A      gate2  7.2654943e-18
C216 A      B      7.2654943e-18
C217 cont5  A      1.3428981e-17
C218 A      gate3  7.2654943e-18
C219 cont6  A      1.1006341e-17
C220 A      cont8  1.0290533e-17
C221 cont9  A      1.0926813e-18
C222 gate5  A      2.9930184e-18
C223 A      cont7  1.0290533e-17
C224 A      vdd    4.1162134e-17
C225 cont10 A      2.9930184e-18
C226 A      cont11 1.0290533e-17
C227 A      cont12 1.0290533e-17
C228 A      gate8  1.4530989e-17
C229 A      gate9  1.4530989e-17
C230 A      aux4   2.1796483e-17
C231 aux7   A      8.9790551e-18
C232 aux8   A      8.9790551e-18
C233 aux12  A      3.278044e-18
C234 cont4  gate2  6.4316037e-18
C235 cont4  B      6.4316037e-18
C236 cont4  cont5  3.0275025e-18
C237 cont4  gate3  6.4316037e-18
C238 cont6  cont4  3.4769424e-17
C239 cont4  gate4  5.9860367e-18
C240 cont4  cont8  1.0810895e-17
C241 cont9  cont4  1.6647113e-17
C242 cont4  cont7  1.0810895e-17
C243 cont4  vdd    4.3243582e-17
C244 cont4  cont11 1.0810895e-17
C245 cont4  gate6  2.9930184e-18
C246 cont4  cont12 1.0810895e-17
C247 cont4  gate7  2.9930184e-18
C248 cont4  gate8  1.2863207e-17
C249 cont4  gate9  1.2863207e-17
C250 cont4  aux1   8.9790551e-18
C251 cont4  aux2   8.9790551e-18
C252 cont4  aux4   1.9294811e-17
C253 aux12  cont4  4.9941338e-17
C254 cont5  gate2  5.0628847e-18
C255 cont6  gate2  1.236549e-17
C256 gate4  gate2  1.4530989e-17
C257 gate2  cont8  1.393337e-17
C258 cont9  gate2  7.714544e-18
C259 gate5  gate2  6.4316037e-18
C260 gate2  cont7  1.393337e-17
C261 gate2  vdd    5.5733478e-17
C262 cont10 gate2  6.4316037e-18
C263 gate2  cont11 1.393337e-17
C264 gate6  gate2  7.2654943e-18
C265 gate2  cont12 1.393337e-17
C266 gate7  gate2  7.2654943e-18
C267 aux1   gate2  2.1796483e-17
C268 aux2   gate2  2.1796483e-17
C269 aux7   gate2  1.9294811e-17
C270 aux8   gate2  1.9294811e-17
C271 aux12  gate2  2.3143632e-17
C272 cont5  B      5.0628847e-18
C273 cont6  B      1.236549e-17
C274 gate4  B      1.4530989e-17
C275 B      cont8  1.393337e-17
C276 cont9  B      7.714544e-18
C277 gate5  B      6.4316037e-18
C278 B      cont7  1.393337e-17
C279 B      vdd    5.5733478e-17
C280 cont10 B      6.4316037e-18
C281 B      cont11 1.393337e-17
C282 gate6  B      7.2654943e-18
C283 B      cont12 1.393337e-17
C284 gate7  B      7.2654943e-18
C285 aux1   B      2.1796483e-17
C286 aux2   B      2.1796483e-17
C287 aux7   B      1.9294811e-17
C288 aux8   B      1.9294811e-17
C289 aux12  B      2.3143632e-17
C290 cont5  gate3  5.0628847e-18
C291 cont6  cont5  4.4778444e-17
C292 cont5  gate4  2.6857962e-17
C293 cont5  cont8  8.2227216e-19
C294 cont9  cont5  7.2076826e-18
C295 gate5  cont5  3.0275025e-18
C296 cont5  cont7  8.2227216e-19
C297 cont5  vdd    3.2890887e-18
C298 cont10 cont5  3.0275025e-18
C299 cont5  cont11 8.2227216e-19
C300 cont5  gate6  1.3428981e-17
C301 cont5  cont12 8.2227216e-19
C302 cont5  gate7  1.3428981e-17
C303 cont5  gate8  1.0125769e-17
C304 cont5  gate9  1.0125769e-17
C305 cont5  aux1   4.0286942e-17
C306 cont5  aux2   4.0286942e-17
C307 cont5  aux4   1.5188654e-17
C308 aux7   cont5  9.0825076e-18
C309 aux8   cont5  9.0825076e-18
C310 aux12  cont5  2.1623048e-17
C311 cont6  gate3  1.236549e-17
C312 gate4  gate3  1.4530989e-17
C313 gate3  cont8  1.393337e-17
C314 cont9  gate3  7.714544e-18
C315 gate5  gate3  6.4316037e-18
C316 gate3  cont7  1.393337e-17
C317 gate3  vdd    5.5733478e-17
C318 cont10 gate3  6.4316037e-18
C319 gate3  cont11 1.393337e-17
C320 gate6  gate3  7.2654943e-18
C321 gate3  cont12 1.393337e-17
C322 gate7  gate3  7.2654943e-18
C323 aux1   gate3  2.1796483e-17
C324 aux2   gate3  2.1796483e-17
C325 aux7   gate3  1.9294811e-17
C326 aux8   gate3  1.9294811e-17
C327 aux12  gate3  2.3143632e-17
C328 cont6  gate4  2.2012681e-17
C329 cont6  cont8  9.9055615e-19
C330 cont6  cont9  1.2724492e-17
C331 cont6  gate5  3.4769424e-17
C332 cont6  cont7  9.9055615e-19
C333 cont6  vdd    3.9622246e-18
C334 cont6  cont10 3.4769424e-17
C335 cont6  cont11 9.9055615e-19
C336 cont6  gate6  1.1006341e-17
C337 cont6  cont12 9.9055615e-19
C338 cont6  gate7  1.1006341e-17
C339 cont6  gate8  2.4730979e-17
C340 cont6  gate9  2.4730979e-17
C341 cont6  aux1   3.3019022e-17
C342 cont6  aux2   3.3019022e-17
C343 cont6  aux4   3.7096469e-17
C344 cont6  aux7   1.0430827e-16
C345 cont6  aux8   1.0430827e-16
C346 cont6  aux12  3.8173475e-17
C347 gate4  cont8  2.0581067e-17
C348 cont9  gate4  2.1853626e-18
C349 gate5  gate4  5.9860367e-18
C350 gate4  cont7  2.0581067e-17
C351 gate4  vdd    8.2324268e-17
C352 cont10 gate4  5.9860367e-18
C353 gate4  cont11 2.0581067e-17
C354 gate4  cont12 2.0581067e-17
C355 gate4  gate8  2.9061977e-17
C356 gate4  gate9  2.9061977e-17
C357 gate4  aux4   4.3592966e-17
C358 aux7   gate4  1.795811e-17
C359 aux8   gate4  1.795811e-17
C360 aux12  gate4  6.5560879e-18
C361 cont9  cont8  1.4150506e-17
C362 gate5  cont8  1.0810895e-17
C363 cont10 cont8  1.0810895e-17
C364 gate6  cont8  1.0290533e-17
C365 gate7  cont8  1.0290533e-17
C366 gate8  cont8  2.7866739e-17
C367 gate9  cont8  2.7866739e-17
C368 aux1   cont8  3.08716e-17
C369 aux2   cont8  3.08716e-17
C370 aux4   cont8  4.1800109e-17
C371 aux7   cont8  3.2432686e-17
C372 aux8   cont8  3.2432686e-17
C373 aux12  cont8  4.2451518e-17
C374 cont9  gate5  1.6647113e-17
C375 cont9  cont7  1.4150506e-17
C376 cont9  vdd    5.6602024e-17
C377 cont9  cont10 1.6647113e-17
C378 cont9  cont11 1.4150506e-17
C379 cont9  gate6  1.0926813e-18
C380 cont9  cont12 1.4150506e-17
C381 cont9  gate7  1.0926813e-18
C382 cont9  gate8  1.5429088e-17
C383 cont9  gate9  1.5429088e-17
C384 cont9  aux1   3.278044e-18
C385 cont9  aux2   3.278044e-18
C386 cont9  aux4   2.3143632e-17
C387 cont9  aux7   4.9941338e-17
C388 cont9  aux8   4.9941338e-17
C389 gate5  cont7  1.0810895e-17
C390 gate5  vdd    4.3243582e-17
C391 gate5  cont11 1.0810895e-17
C392 gate5  gate6  2.9930184e-18
C393 gate5  cont12 1.0810895e-17
C394 gate5  gate7  2.9930184e-18
C395 gate5  gate8  1.2863207e-17
C396 gate5  gate9  1.2863207e-17
C397 gate5  aux1   8.9790551e-18
C398 gate5  aux2   8.9790551e-18
C399 gate5  aux4   1.9294811e-17
C400 aux12  gate5  4.9941338e-17
C401 cont10 cont7  1.0810895e-17
C402 gate6  cont7  1.0290533e-17
C403 gate7  cont7  1.0290533e-17
C404 gate8  cont7  2.7866739e-17
C405 gate9  cont7  2.7866739e-17
C406 aux1   cont7  3.08716e-17
C407 aux2   cont7  3.08716e-17
C408 aux4   cont7  4.1800109e-17
C409 aux7   cont7  3.2432686e-17
C410 aux8   cont7  3.2432686e-17
C411 aux12  cont7  4.2451518e-17
C412 cont10 vdd    4.3243582e-17
C413 gate6  vdd    4.1162134e-17
C414 gate7  vdd    4.1162134e-17
C415 gate8  vdd    1.1146696e-16
C416 gate9  vdd    1.1146696e-16
C417 aux1   vdd    1.234864e-16
C418 aux2   vdd    1.234864e-16
C419 aux4   vdd    1.6720043e-16
C420 aux7   vdd    1.2973074e-16
C421 aux8   vdd    1.2973074e-16
C422 aux12  vdd    1.6980607e-16
C423 cont10 cont11 1.0810895e-17
C424 cont10 gate6  2.9930184e-18
C425 cont10 cont12 1.0810895e-17
C426 cont10 gate7  2.9930184e-18
C427 cont10 gate8  1.2863207e-17
C428 cont10 gate9  1.2863207e-17
C429 cont10 aux1   8.9790551e-18
C430 cont10 aux2   8.9790551e-18
C431 cont10 aux4   1.9294811e-17
C432 aux12  cont10 4.9941338e-17
C433 gate6  cont11 1.0290533e-17
C434 gate7  cont11 1.0290533e-17
C435 gate8  cont11 2.7866739e-17
C436 gate9  cont11 2.7866739e-17
C437 aux1   cont11 3.08716e-17
C438 aux2   cont11 3.08716e-17
C439 aux4   cont11 4.1800109e-17
C440 aux7   cont11 3.2432686e-17
C441 aux8   cont11 3.2432686e-17
C442 aux12  cont11 4.2451518e-17
C443 gate6  cont12 1.0290533e-17
C444 gate6  gate8  1.4530989e-17
C445 gate6  gate9  1.4530989e-17
C446 gate6  aux4   2.1796483e-17
C447 aux7   gate6  8.9790551e-18
C448 aux8   gate6  8.9790551e-18
C449 aux12  gate6  3.278044e-18
C450 gate7  cont12 1.0290533e-17
C451 gate8  cont12 2.7866739e-17
C452 gate9  cont12 2.7866739e-17
C453 aux1   cont12 3.08716e-17
C454 aux2   cont12 3.08716e-17
C455 aux4   cont12 4.1800109e-17
C456 aux7   cont12 3.2432686e-17
C457 aux8   cont12 3.2432686e-17
C458 aux12  cont12 4.2451518e-17
C459 gate7  gate8  1.4530989e-17
C460 gate7  gate9  1.4530989e-17
C461 gate7  aux4   2.1796483e-17
C462 aux7   gate7  8.9790551e-18
C463 aux8   gate7  8.9790551e-18
C464 aux12  gate7  3.278044e-18
C465 aux1   gate8  4.3592966e-17
C466 aux2   gate8  4.3592966e-17
C467 aux7   gate8  3.8589622e-17
C468 aux8   gate8  3.8589622e-17
C469 aux12  gate8  4.6287264e-17
C470 aux1   gate9  4.3592966e-17
C471 aux2   gate9  4.3592966e-17
C472 aux7   gate9  3.8589622e-17
C473 aux8   gate9  3.8589622e-17
C474 aux12  gate9  4.6287264e-17
C475 aux1   aux4   6.5389448e-17
C476 aux7   aux1   2.6937165e-17
C477 aux8   aux1   2.6937165e-17
C478 aux12  aux1   9.8341319e-18
C479 aux2   aux4   6.5389448e-17
C480 aux7   aux2   2.6937165e-17
C481 aux8   aux2   2.6937165e-17
C482 aux12  aux2   9.8341319e-18
C483 aux7   aux4   5.7884433e-17
C484 aux8   aux4   5.7884433e-17
C485 aux12  aux4   6.9430896e-17
C486 aux12  aux7   1.4982401e-16
C487 aux12  aux8   1.4982401e-16
